US04426386
EXAMPLE I7. 3-(3-Pyridinyl)methoxybenzene (Method A2)
This substance was prepared by a dichlorobis-(triphenylphosphine)nickel (II) catalyzed reaction between 3-methoxyphenylmagnesium bromide (from 50 g of 3-bromo-anisole and 5.9 g of Mg in THF) and 31.8 g of 3-bromopyridine. Yield 23.1 g (62%), bp. 102°/0.15 mmHg, mp. (HCl) 187.5°-9° C.

reactant | 3-methoxyphenylmagnesium bromide | 50 g | COC=1C=C(C=CC1)[Mg]Br
reactant | 3-bromopyridine | 31.8 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | HCl | Cl | ClH
catalyst | dichlorobis-(triphenylphosphine)nickel (II) | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-Pyridinyl)methoxybenzene | N1=CC(=CC=C1)COC=1C=CC=CC1 | C12H11NO
